US07902252B2
4.24. Synthesis of methyl 6-(2-(naphthalen-1-yl)ethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.50 g, 2.8 mmol) and (2-(naphthalen-1-yl)ethyl)magnesium chloride (synthesized in situ) were reacted according to General Procedure 3 to give the exo olefin-containing compound (E)-methyl 6-(2-(naphthalen-1-yl)ethylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate. (Note: (2-(naphthalen-1-yl)ethyl)magnesium chloride was synthesized as follows: Activated magnesium turnings (0.306 g, 12.6 mmol; washed sequentially with 3N HCl, water, THF and diethyl ether) was placed in a flask and anhydrous THF (50 mL). 1-(2-chloroethyl)naphthalene ((0.168 M in THF, 75.0 mL, 12.6 mmol) was added dropwise followed by a few grains of I2 (catalytic). The solution was stirred gently at ambient temperature for 30 min. Additional anhydrous THF (25 mL) was added and the solution refluxed for 3 h, and then allowed to cool to ambient temperature). (E)-methyl 6-(2-(naphthalen-1-yl)ethylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate was hydrogenated according to General Procedure 6 (with 5% Pd/C), and was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-25% EtOAc/heptane affording the title compound. 0.051 g. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.86-2.03 (m, 1H), 2.08-2.29 (m, 2H), 2.55-2.81 (m, 3H), 3.03-3.31 (m, 3H), 3.67-3.86 (m, 3H), 6.54-6.72 (m, 1H), 7.30-7.37 (m, 1H), 7.37-7.45 (m, 1H), 7.45-7.58 (m, 2H), 7.75 (d, J=8.10 Hz, 1H), 7.83-7.93 (m, 1H), 8.01 (d, J=8.25 Hz, 1H), 8.74 (br. s, 1H).

reactant | methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.8 mmol, 0.50 g | O=C1CCC2=C1NC(=C2)C(=O)OC | C9H9NO3
reactant | (2-(naphthalen-1-yl)ethyl)magnesium chloride | C1(=CC=CC2=CC=CC=C12)CC[Mg]Cl
product | methyl 6-(2-(naphthalen-1-yl)ethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C1(=CC=CC2=CC=CC=C12)CCC1CCC2=C1NC(=C2)C(=O)OC | C21H21NO2
